US06004948
(d) 4-Amino-3-(4-chlorophenylthio)-benzenesulphonamide
3-(4-Chlorophenylthio)-4-nitro-benzenesulphonamide (0.50 g, 1.45 mmol), NH4Cl (0.16 g; 2.90 mmol) and Fe powder (0.40 g; 7.25 mmol) were suspended in EtOH (10 ml)/water (5 ml) and refluxed for 30 minutes. The solution was filtered, evaporated down and the residue was taken up in CH2Cl2. It was washed with water, dried over MgSO4 and evaporated down. The residue was used again in its crude form. Yield: 0.43 g=94% 13C (100 MHz, CDCl3)d 152.17, 136.12, 133.59, 132.24, 130.75, 129.86, 129.38, 128.37, 114.69, 114.09

reactant | 3-(4-Chlorophenylthio)-4-nitro-benzenesulphonamide | 1.45 mmol, 0.50 g | ClC1=CC=C(C=C1)SC=1C=C(C=CC1[N+](=O)[O-])S(=O)(=O)N | C12H9ClN2O4S2
reactant | NH4Cl | 2.90 mmol, 0.16 g | [NH4+].[Cl-]
reactant | water | 5 ml | O | H2O
solvent | EtOH | 10 ml | CCO | C2H6O
catalyst | Fe | 7.25 mmol, 0.40 g | [Fe] | Fe
product | 4-Amino-3-(4-chlorophenylthio)-benzenesulphonamide | NC1=C(C=C(C=C1)S(=O)(=O)N)SC1=CC=C(C=C1)Cl | C12H11ClN2O2S2
